US08865726B2
To a solution of (S)-4-(pyridin-2-yl)oxazolidin-2-one (0.20 g, 1.2 mmol) in DMF (20 mL) was added sodium hydride (0.049 g, 1.2 mmol) and the reaction was stirred at ambient temperature for 1 hour. 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine (0.28 g, 1.2 mmol) was added and the reaction stirred for an additional 1 hour. The reaction was then poured into water (100 mL) and extracted into ether (200 mL). The organic layer was washed with water (100 mL), dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed using 100% DCM to 15% EtOAc/DCM as eluent to yield (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one (0.25 g, 56.8%).

reactant | (S)-4-(pyridin-2-yl)oxazolidin-2-one | 1.2 mmol, 0.20 g | N1=C(C=CC=C1)[C@@H]1NC(OC1)=O | C8H8N2O2
reactant | sodium hydride | 1.2 mmol, 0.049 g | [H-].[Na+]
reactant | 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine | 1.2 mmol, 0.28 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one | 0.25 g, 56.8% | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=CC=C2)=O | C14H10BrN5O2
